US04678783
To 50 ml of thionyl chloride were added 5.85 g of 1-chloro-5-isoquinolinesulfonic acid as obtained in Example 1 and 0.5 ml of N,N-dimethylformamide. Then, the resulting mixture was refluxed while heating for 2 hours, followed by removal of the thionyl chloride and N,N-dimethylformamide under reduced pressure to obtain a residue. Then, the residue was dissolved in 50 ml of water, and the pH of the aqueous solution was adjusted to 6.0 with an aqueous sodium hydrogencarbonate saturated solution, followed by extraction twice with 50 ml of dichloromethane. The dichloromethane layer was added to a 50 ml of dichloromethane solution containing 1.84 g of ethanolamine and 3.03 g of triethylamine for 5 minutes while cooling with ice. Then, the mixture was stirred for 1 hour at a temperature of 10° C. to 20° C. The thus obtained reaction mixture was washed thrice with water, dried with anhydrous sodium sulfate and then distilled under reduced pressure to obtain 5.04 g of N-(2 -hydroxy- ethyl)-1-chloro-5-isoquinolinesulfonamide in a 96% yield.

reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-chloro-5-isoquinolinesulfonic acid | 5.85 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H6ClNO3S
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 50 ml | O | H2O
product | N-(2 -hydroxy- ethyl)-1-chloro-5-isoquinolinesulfonamide | 5.04 g, 96% yield | OCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)Cl | C11H11ClN2O3S
